US09382392B2
Poly(styrene-co-methyl methacrylate) is synthesized by free radical polymerization. Benzoyl peroxide was used as initiator, 0.1 wt % of total volume of monomers. Reaction took place in a round bottom flask equipped with a magnetic stirrer at 110° C. for 5 hours under a nitrogen environment. After reaction, THF (60 ml per 10 ml of monomer) was added into the round bottom flask and kept with stirring for 2-4 days to dissolve the product. The dissolved polymer solution was then precipitated in excess amount of methanol and then dried in oven at 40° C. for at least 24 hrs.

reactant | Benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | THF | 60 ml | C1CCOC1 | C4H8O
product | Poly(styrene-co-methyl methacrylate) | CC(=C)C(=O)OC.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C5H8O2/c1-2-8-6-4-3-5-7-8;1-4(2)5(6)7-3/h2-7H,1H2;1H2,2-3H3
